US07371767B2
A solution of 3-iodo-1-(triisopropylsilyl)-1H-pyrrole (11.0 g, 2.87 mmol), triphenylphosphine (27 mg, 0.103 mmol), and tetrakis(triphenylphosphine)palladium(0) (80 mg, 0.069 mmol) in THF (20 mL) was degassed with Ar (g) for 15 min, then 2-bromo(pyridin-2-yl)zinc (1.5 mL of 0.5M solution, 5.74 mmol) was added and degassing continued a further 15 min. The reaction was stirred at 70° C. for 5 h and monitored by LC/MS. The reaction mixture was quenched with H2O (40 mL) then extracted with EtOAc (3×25 mL) and the combined organic extracts washed with brine. The organic phase was dried over Na2SO4, concentrated in vacuo and the crude residue was chromatographed on silica gel eluting with EtOAc:hexane (1:9) to afford 2-[1-(triisopropylsilyl)-1H-pyrrol-3-yl]pyridine as a clear oil which was used below without further purification.

reactant | 3-iodo-1-(triisopropylsilyl)-1H-pyrrole | 2.87 mmol, 11.0 g | IC1=CN(C=C1)[Si](C(C)C)(C(C)C)C(C)C | C13H24INSi
reactant | triphenylphosphine | 0.103 mmol, 27 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-bromo(pyridin-2-yl)zinc | 5.74 mmol, 0.5M, 1.5 mL | BrC1(NC=CC=C1)[Zn]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.069 mmol, 80 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-[1-(triisopropylsilyl)-1H-pyrrol-3-yl]pyridine | C(C)(C)[Si](N1C=C(C=C1)C1=NC=CC=C1)(C(C)C)C(C)C | C18H28N2Si
